US05834412
Preparation of sodium 2-(2,3-Dihydroxypropoxy)ethanesulfonate
To a 500 mL, three neck, round bottom flask equipped with a magnetic stirring bar, modified Claisen head, condenser (set for distillation), thermometer, and temperature controller (Therm-O-Watch™, I2R) was added isethionic acid, sodium salt (Aldrich, 50.0 gm, 0.338 mol), sodium hydroxide (2.7 g, 0.0675 mol), and glycerin (Baker, 310.9 gm, 3.38 mol). The solution was heated at 190° C. under argon overnight as water distilled from the reaction mixture. A 13C--NMR(DMSO-d6) showed that the reaction was complete by the virtual disappearance of the isethionate peaks at ~53.5 ppm and ~57.4 ppm, and the emergence of product peaks at ~51.4 ppm (--CH2SO3Na) and ~67.5 ppm (CH2CH2SO3Na). The solution was cooled to ~100° C. and neutralized to pH 7 with methanesulfonic acid (Aldrich). The desired, neat material was obtained by adding 0.8 mol % of potassium phosphate, monobasic and heating on a Kugelrohr apparatus (Aldrich) at 200° C. for ~3 hr. at ~1 mm Hg to afford 77 gm of yellow waxy solid.

reactant | isethionic acid | S(=O)(=O)(O)CCO | C2H6O4S
reactant | sodium | 0.338 mol, 50.0 gm | [Na] | Na
reactant | sodium hydroxide | 0.0675 mol, 2.7 g | [OH-].[Na+]
reactant | glycerin | 3.38 mol, 310.9 gm | OCC(O)CO | C3H8O3
reactant | potassium phosphate | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | water | O | H2O
product | sodium 2-(2,3-Dihydroxypropoxy)ethanesulfonate | OC(COCCS(=O)(=O)[O-])CO.[Na+] | InChI=1S/C5H12O6S.Na/c6-3-5(7)4-11-1-2-12(8,9)10;/h5-7H,1-4H2,(H,8,9,10);/q;+1/p-1
